US07635715B2
Step G: Preparation of Methyl N-((6-chloro-4-hydroxy-2-oxo-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate
A solution of methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(tert-butoxycarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate (333 mg, 695 μmol) in dioxane (10 mL) was treated with HCl (4.0M in 1,4-dioxane (1738 μL, 6953 μmol)). The reaction was stirred at 23° C. After 20 hours, the reaction was concentrated in vacuo affording 231 mg of the title compound as the hydrochloride salt. MS m/e=379.2 (M+H)+.

reactant | methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(tert-butoxycarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | 695 μmol, 333 mg | ClC=1C=C2C(=C(C(C3(CCN(CC3)C(=O)OC(C)(C)C)C2=CC1)=O)C(=O)NCC(=O)OC)O | C23H27ClN2O7
reactant | HCl | 6953 μmol, 4.0M, 1738 μL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Methyl N-((6-chloro-4-hydroxy-2-oxo-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | 231 mg | ClC=1C=C2C(=C(C(C3(CCNCC3)C2=CC1)=O)C(=O)NCC(=O)OC)O | C18H19ClN2O5
